US04267174
5.85 g. N-Acetylglycine, 3.4 g. 2-cyanoaziridine and 10.8 g. dicyclohexylcarbodiimide are stirred in 60 ml. tetrahydrofuran for 2 hours at ambient temperature. The precipitated dicyclohexylurea is filtered off, the filtrate is evaporated and the residue is stirred with diethyl ether, 5.2 g. of crude product thus being obtained. This water-soluble product is recrystallized from methanolic diethyl ether to give 1-(N-acetylglycyl)-2-cyanoaziridine, which melts at 102°-104° C.

reactant | N-Acetylglycine | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | 2-cyanoaziridine | C(#N)C1NC1 | C3H4N2
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(N-acetylglycyl)-2-cyanoaziridine | C(C)(=O)NCC(=O)N1C(C1)C#N | C7H9N3O2
